US04207104
2-Chloro-3-Methoxy-5-Nitropyridine
3-Methoxy-5-nitro-2-pyridone (5.7 g, 0.034 mole) was added to a combination of phosphorus pentachloride (5.0 g) and phosphorus oxychloride (40 ml); the reaction mixture was refluxed for 2.5 hours, cooled, poured over ice/water (300 ml) and stirred for 30 minutes. The resulting solid was collected by filtration, washed with water and air dried; yield, 1.72 g (27 percent), m.p. 40° to 41° C.

reactant | 3-Methoxy-5-nitro-2-pyridone | 0.034 mole, 5.7 g | COC=1C(NC=C(C1)[N+](=O)[O-])=O | C6H6N2O4
reactant | phosphorus pentachloride | 5.0 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phosphorus oxychloride | 40 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-3-Methoxy-5-Nitropyridine | ClC1=NC=C(C=C1OC)[N+](=O)[O-] | C6H5ClN2O3
